US08492409B2
(1) Synthesis of methyl 2,4-dioxopentanoate
To a 500 mL flask, 25% sodium methoxide of methanol solution (43.20 g, 0.200 mol), methanol (200 mL) were added, the mixture of dimethyl oxalate (23.60 g, 0.200 mol) and acetone (11.60 g, 0.200 mol) were added dropwise at ice-salt bath. The reaction mixture was stirred for 8 hours at 0˜5° C. The reaction mixture was poured into 200 mL water and extracted with ethyl acetate (150 mL) to remove organic impurity. The aqueous solution was acidified with concentrated hydrochloric acid to pH of 2˜3 and extracted with ethyl acetate (3×200 mL). The organic layer was washed with water (150 mL), and saturated brine (150 mL), dried over anhydrous magnesium sulfate and concentrated to give the product (25.9 g) as yellow oil in 90% yield. 1H NMR (300 MHz, CDCl3): 6.396 (s, 1H, enol isomer), 3.906 (s, 3H), 2.279 (s, 3H).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.200 mol, 43.20 g | CO | CH4O
reactant | methanol | 200 mL | CO | CH4O
reactant | dimethyl oxalate | 0.200 mol, 23.60 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | acetone | 0.200 mol, 11.60 g | CC(=O)C | C3H6O
solvent | water | 200 mL | O | H2O
product | methyl 2,4-dioxopentanoate | 25.9 g, 90% yield | O=C(C(=O)OC)CC(C)=O | C6H8O4
